US04232032
A solution of ethyl 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxylate (2.0 g.) in anhydrous ether (25 ml.) was added at room temperature during 20 minutes to a suspension of lithium aluminium hydride (0.2 g.) in anhydrous ether (25 ml.). The mixture was stirred for 1 hour, then ethyl acetate (5 ml.) was added, followed by water (10 ml.). The mixture was filtered, and the ether layer of the filtrate was separated. The aqueous phase was extracted with ether (3×10 ml.), the combined extracts were dried, and the solvent was evaporated. The residue was crystallised from ethanol to give 6-hydroxymethyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin, m.p. 134°-136° C.

reactant | ethyl 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxylate | 2.0 g | ClC(C1OC2=C(C(O1)C(Cl)(Cl)Cl)C=C(C=C2)C(=O)OCC)(Cl)Cl | C13H10Cl6O4
reactant | lithium aluminium hydride | 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 10 ml | O | H2O
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 6-hydroxymethyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin | OCC=1C=CC2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1 | C11H8Cl6O3
